US07122550B2
4-{6-[(1R)-2,3-Dihydro-1H-inden-1-ylamino]pyrazin-2-yl}-2-methoxyphenol
In a procedure analogous to Example 2, reaction of 6-chloro-N-[(1R)-2,3-dihydro-1H-inden-1-yl]pyrazin-2-amine (136.8 mg, 0.56 mmol) and 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (153 mg, X0.61 mmol) furnished the product (130 mg, 70%).

reactant | 6-chloro-N-[(1R)-2,3-dihydro-1H-inden-1-yl]pyrazin-2-amine | 0.56 mmol, 136.8 mg | ClC1=CN=CC(=N1)N[C@@H]1CCC2=CC=CC=C12 | C13H12ClN3
reactant | 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 153 mg | COC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)O | C13H19BO4
product | 4-{6-[(1R)-2,3-Dihydro-1H-inden-1-ylamino]pyrazin-2-yl}-2-methoxyphenol | 130 mg, 70% | [C@H]1(CCC2=CC=CC=C12)NC1=CN=CC(=N1)C1=CC(=C(C=C1)O)OC | C20H19N3O2
